US07939666B2
Stage 3: 3-{2-[6-(Tetrahydro-pyran-2-yloxycarbamoyl)-hexylcarbamoyl]-1H-indol-5-yl}-propionic acid ethyl ester
5-((E)-2-Ethoxycarbonyl-vinyl)-1H-indole-2-carboxylic acid (0.427 g, 1.6 mmol) was dissolved in anhydrous DMF (20 ml). EDCl.HCl (0.38 g, 2 mmol), Et3N (0.59 ml, 4.3 mmol), HOBt (0.27 g, 2 mmol) and 7 amino heptanoic acid (tetrahydropyran-2-yloxy) amide (0.4 g, 1.6 mmol in anhydrous DMF 20 ml) were added and the reaction stirred at room temperature for 16 h under nitrogen. Water was added, the reaction mixture acidified to pH=6-7 (10% citric acid) and extracted with DCM. The organic layer was washed with 10% citric acid and saturated sodium hydrogen carbonate (×2). The solvent was removed in vacuo to give crude product which was purified by chromatography (EtOAc:hexane 1:2→EtOAc) to give the required product as a yellow solid (550 mg, 69% yield). LCMS purity 93%, m/z 488 [M++H]+

reactant | 5-((E)-2-Ethoxycarbonyl-vinyl)-1H-indole-2-carboxylic acid | 1.6 mmol, 0.427 g | C(C)OC(=O)/C=C/C=1C=C2C=C(NC2=CC1)C(=O)O | C14H13NO4
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 2 mmol, 0.38 g | Cl | ClH
reactant | Et3N | 4.3 mmol, 0.59 ml | CCN(CC)CC | C6H15N
reactant | HOBt | 2 mmol, 0.27 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | amino heptanoic acid (tetrahydropyran-2-yloxy) amide | 1.6 mmol, 20 ml, 0.4 g | O1C(CCCC1)ONC(C(CCCCC)N)=O | C12H24N2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-{2-[6-(Tetrahydro-pyran-2-yloxycarbamoyl)-hexylcarbamoyl]-1H-indol-5-yl}-propionic acid ethyl ester | 550 mg, 69% yield | C(C)OC(CCC=1C=C2C=C(NC2=CC1)C(NCCCCCCC(NOC1OCCCC1)=O)=O)=O | C26H37N3O6
